### PR TITLE
Bipartiteness

### PR DESCRIPTION
**Pull request by katjabercic**

### CODE REVIEW

File: LeanHoG/Invariant/Bipartiteness/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,35 @@
...
+  edgeColor : ∀ (e : G.edge), color e.val.fst ≠ color e.val.snd
+
+  /-- Vertex 0 has color 0 -/
+  vertex0Color : color vertex0 = 0
+
+  /-- Vertex 1 has color 1 -/
+  vertex1Color : color vertex1 = 1
+
+
+/-- A graph is connected if it has a bipartiteness certificate.  -/
```
Comment (cilinder) [inline LeanHoG/Invariant/Bipartiteness/Basic.lean:26]:
```suggestion
/-- A graph is bipartite if it has a bipartiteness certificate.  -/
```

File: LeanHoG/Invariant/Bipartiteness/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,35 @@
...
+theorem Graph.is_bipartite (G : Graph) [B : BipartitenessCertificate G] :
+  ∃ (c : G.vertex → Fin 2), ∃ (v0 v1 : G.vertex), c v0 ≠ c v1 ∧ ∀ (e : G.edge), c e.val.fst ≠ c e.val.snd := by
+  use B.color, B.vertex0, B.vertex1
+  constructor
+  · rw [B.vertex0Color, B.vertex1Color]
+    simp
+  · exact B.edgeColor
```
Comment (cilinder) [inline LeanHoG/Invariant/Bipartiteness/Basic.lean:33]: I would perhaps define the conclusion of this theorem as the definition of bipartiteness and then say that the theorem proves that `G` is bipartite given a certificate of bipartiteness, something like this:

```suggestion
@[simp] def Graph.isBipartite (G : Graph) : Prop :=
  ∃ (c : G.vertex → Fin 2), ∃ (v0 v1 : G.vertex), c v0 ≠ c v1 ∧ ∀ (e : G.edge), c e.val.fst ≠ c e.val.snd

/-- A graph is connected if it has a bipartiteness certificate.  -/
theorem Graph.is_bipartite_if_has_certificate (G : Graph) [B : BipartitenessCertificate G] :
  G.isBipartite := by
  use B.color, B.vertex0, B.vertex1
  constructor
  · rw [B.vertex0Color, B.vertex1Color]
    simp
  · exact B.edgeColor
```

Comment (katjabercic) [reply LeanHoG/Invariant/Bipartiteness/Basic.lean:33]: I like @cilinder's suggestion. Should we move all certificates to this approach, @andrejbauer and @GauvainD ?
